US08859541B2
D4a) tert-butyl-N-[1-[(1-ethynylisoquinolin-3-yl)amino]-1-oxopropan-2-yl]-carbamate
A mixture of tert-butyl-N-[1-oxo-1-[[1-(2-trimethylsilylethynyl)isoquinolin-3-yl]amino]-propan-2-yl]carbamate C4a (319 mg, 0.78 mmol), aqueous 1 N KOH solution (3 ml) and MeOH (10 ml) is stirred at RT for 2 h. The mixture is diluted with water and extracted with EtOAc. The combined organic layers are dried over Na2SO4 and concentrated in vacuo and the product purified by RP HPLC. Yield: 225 mg (86%). HPLC-MS: M+H=340; tR=1.84 min (*Method—1).

reactant | tert-butyl-N-[1-oxo-1-[[1-(2-trimethylsilylethynyl)isoquinolin-3-yl]amino]-propan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(NC=1N=C(C2=CC=CC=C2C1)C#C[Si](C)(C)C)=O)C)=O | C22H29N3O3Si
reactant | KOH | 1 N, 3 ml | [OH-].[K+]
reactant | MeOH | 10 ml | CO | CH4O
solvent | water | O | H2O
product | tert-butyl-N-[1-[(1-ethynylisoquinolin-3-yl)amino]-1-oxopropan-2-yl]-carbamate | C(C)(C)(C)OC(NC(C(=O)NC=1N=C(C2=CC=CC=C2C1)C#C)C)=O | C19H21N3O3
